US07968573B2
Trifluoromethyl trifluorovinyl ether was blown into a mixture of 1.0 g of ethyl 1-(3-chloro-2-pyridinyl)-3-hydroxy-1H-pyrazole-5-carboxylate, 0.042 g of potassium hydroxide, 10 ml of methanol and 10 ml of dimethyl sulfoxide under ice-cooling. The resulting mixture was stirred at room temperature for 4 days. Water was poured into the reaction mixture, and the mixture was extracted with diethyl ether two times. The organic layers were combined, washed with water and an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel chromatography to obtain 1.32 g of methyl 1-(3-chloro-2-pyridinyl)-3-[1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy]-1H-pyrazole-5-carboxylate of the formula:

reactant | Trifluoromethyl trifluorovinyl ether | FC(=C(F)F)OC(F)(F)F | C3F6O
reactant | ethyl 1-(3-chloro-2-pyridinyl)-3-hydroxy-1H-pyrazole-5-carboxylate | 1.0 g | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OCC)O | C11H10ClN3O3
reactant | potassium hydroxide | 0.042 g | [OH-].[K+]
reactant | methanol | 10 ml | CO | CH4O
solvent | Water | O | H2O
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | methyl 1-(3-chloro-2-pyridinyl)-3-[1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy]-1H-pyrazole-5-carboxylate | 1.32 g | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OC)OC(C(OC(F)(F)F)F)(F)F | C13H8ClF6N3O4
